US09326987B2
6-Bromo-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-4-amine
6-Bromo-4-nitro-2-(tetrahydro-2H-pyran-2-yl)-2H-indazole (6 g), iron filings (3.29 g) and ammonium chloride (0.492 g) were weighed to a 250 ml round-bottomed flask and ethanol (60 ml) then water (18 ml) were added. The reaction was heated to 80° C. for 2.5 h. The reaction mixture was cooled. Ethyl acetate (100 ml) and water (50 ml) were added. There was no visible separation of layers so the reaction was concentrated to remove the ethyl acetate and ethanol. Ethyl acetate (250 ml) was then added and the organic layer was washed with water (50 ml), before passing through a hydrophobic frit. The organic layer was evaporated to dryness. The residue was purified by column chromatography on silica (120 g silica column, ISCO Companion) eluting with a gradient of 1-2% methanol in DCM over 25 min. Fractions containing desired material were combined and evaporated to dryness to afford the title compound, 3.95 g.

reactant | 6-Bromo-4-nitro-2-(tetrahydro-2H-pyran-2-yl)-2H-indazole | 6 g | BrC=1C=C(C2=CN(N=C2C1)C1OCCCC1)[N+](=O)[O-] | C12H12BrN3O3
reactant | ammonium chloride | 0.492 g | [Cl-].[NH4+]
reactant | ethanol | 60 ml | C(C)O | C2H6O
catalyst | iron | [Fe] | Fe
solvent | water | 50 ml | O | H2O
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 18 ml | O | H2O
product | 6-Bromo-2-(tetrahydro-2H-pyran-2-yl)-2H-indazol-4-amine | BrC=1C=C(C2=CN(N=C2C1)C1OCCCC1)N | C12H14BrN3O
